US05401434
Into a flask, were placed triphenylphosphite (2.6 g, 10 mmol) and 4-bromophenethylbromide (2.6 g, 10 mmol) prepared from 4-bromophenethylalcohol, followed by adding and dissolving xylene (10 ml), heating under reflex for 10 hours after the completion of reaction, filtering off the deposited white crystals of 4-bromo-phenethyltriphenylphosphoniumbromide, and drying the white crystals (5.1 g, 9.5 mmol). The obtained white crystals were dissolved into THF (30 ml), followed by stirring under ice cooling, adding potassium-t-butoxid (1 g, 9 mmol) slowly into the reaction solution, stirring the solution at room temperature for 2 hours after the completion of dropping, adding THF (20 ml) solution of 4-(4-propylcyclohexyl)cyclohexylacetaldehyde (2.2 g, 9 mmol), further stirring for 5 hours, adding ether after the completion of reaction, filtrating off white solid deposited, concentrating the filtrate under reduced pressure, purifying the obtained brown oil by means of silica gel chromatography, to obtain a mixture (2.2 g, 5.3 mmol) of 1-(4-bromophenyl)-4-(4-(4-propylcyclohexyl)cyclohexyl-2Z-butene with its E-isomer.

reactant | triphenylphosphite | 10 mmol, 2.6 g | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | 4-bromophenethylbromide | 10 mmol, 2.6 g | BrC1=CC=C(CCBr)C=C1 | C8H8Br2
reactant | 4-bromophenethylalcohol | BrC1=CC=C(CCO)C=C1 | C8H9BrO
reactant | potassium-t-butoxid | 9 mmol, 1 g | CC(C)([O-])C.[K+]
reactant | 4-(4-propylcyclohexyl)cyclohexylacetaldehyde | 9 mmol, 2.2 g | C(CC)C1CCC(CC1)C1CCC(CC1)CC=O | C17H30O
solvent | ether | CCOCC | C4H10O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-(4-propylcyclohexyl)cyclohexyl-2Z-butene | C(CC)C1CCC(CC1)C1CCC(CC1)\C=C/CC | C19H34
